US05426179
Preparation of 17-hydroxy-17-(2-carboxyethyl)-3beta-ethoxymethoxy-14-hydroxy-5beta,14beta-androstane
A solution of 17-hydroxy-17-carboxyethynyl-3beta-ethoxymethoxy-14-hydroxy-5beta,14beta-androstane (30 mg), prepared as described in Example 12, in ethanol (5 ml), was hydrogenated at 2.72 atmosphere in a Parr apparatus in the presence of 10% palladium over charcoal.

reactant | 17-hydroxy-17-carboxyethynyl-3beta-ethoxymethoxy-14-hydroxy-5beta,14beta-androstane | 30 mg | OC1([C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)OCOCC)O)C#CC(=O)O | C25H38O6
reactant | charcoal | C | CH4
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 17-hydroxy-17-(2-carboxyethyl)-3beta-ethoxymethoxy-14-hydroxy-5beta,14beta-androstane | OC1([C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)OCOCC)O)CCC(=O)O | C25H42O6
